US09120812B2
A mixture of 600 mg (2.93 mmol) of 5-bromo-2-nitropyridine and 1.05 g (14.63 mmol) of pyrrolidine is heated in a Biotage microwave machine for 1 hour at 120° C. The reaction medium is diluted with water and then extracted with ethyl acetate. The organic phase is washed twice with water, dried over MgSO4 and then filtered. The filtrate is evaporated under reduced pressure and then chromatographed on silica gel, eluting with a heptane/ethyl acetate mixture from (100/0 v/v) up to (50/50 v/v) to give 410 mg of 2-nitro-5-pyrrolidin-1-ylpyridine.

reactant | 5-bromo-2-nitropyridine | 2.93 mmol, 600 mg | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | pyrrolidine | 14.63 mmol, 1.05 g | N1CCCC1 | C4H9N
solvent | water | O | H2O
product | 2-nitro-5-pyrrolidin-1-ylpyridine | 410 mg | [N+](=O)([O-])C1=NC=C(C=C1)N1CCCC1 | C9H11N3O2
